US07544835B2
3-[3-(2-{[(4-Chloroanilino)carbonyl]oxy}ethyl)phenyl]-2-ethoxypropanoic acid
Using ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate and 4-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 160b).

reactant | ethyl 2-ethoxy-3-[3-(2-hydroxyethyl)phenyl]propanoate | C(C)OC(C(=O)OCC)CC1=CC(=CC=C1)CCO | C15H22O4
reactant | 4-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | 3-[3-(2-{[(4-Chloroanilino)carbonyl]oxy}ethyl)phenyl]-2-ethoxypropanoic acid | ClC1=CC=C(NC(=O)OCCC=2C=C(C=CC2)CC(C(=O)O)OCC)C=C1 | C20H22ClNO5
